US04415572
2-Nitro-5-piperazinylbenzaldehyde hydrochloride (47 g) was dissolved in 500 ml of pyridine and 5 g of piperidine and 100 g of malonic acid were added to the solution followed by heating under reflux for 5 hours. After cooling, crystals which formed were collected by filtration to give 42 g of 2-nitro-5-piperazinylcinnamic acid, m.p. 229°-237° C.

reactant | 2-Nitro-5-piperazinylbenzaldehyde hydrochloride | 47 g | Cl.[N+](=O)([O-])C1=C(C=O)C=C(C=C1)N1CCNCC1
reactant | piperidine | 5 g | N1CCCCC1 | C5H11N
reactant | malonic acid | 100 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2-nitro-5-piperazinylcinnamic acid | 42 g | [N+](=O)([O-])C1=C(C=CC(=O)O)C=C(C=C1)N1CCNCC1 | C13H15N3O4
